US07642264B2
5-{3-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-[1,2,4]oxadiazol-5-yl}-thiophene-2-sulfonic acid amide
The title compound was prepared from N-hydroxy-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine-2-carboxamidine (example C.2) (0.176 g, 0.5 mmol) and commercially available 2-sulfamoyl-thiophene-5-carboxylic acid [CAS-No. 7353-87-9] (0.104 g, 0.5 mmol) according to the general procedure V. Obtained as a light yellow solid (0.12 g, 46%). MS (ISN) 520.1 [(M−H)−]; mp 258.5° C.

reactant | N-hydroxy-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine-2-carboxamidine | 0.5 mmol, 0.176 g | ONC(=N)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C13H8F6N4O
reactant | 2-sulfamoyl-thiophene-5-carboxylic acid | 0.5 mmol, 0.104 g | S(N)(=O)(=O)C=1SC(=CC1)C(=O)O | C5H5NO4S2
product | 5-{3-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-[1,2,4]oxadiazol-5-yl}-thiophene-2-sulfonic acid amide | FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=NOC(=N1)C1=CC=C(S1)S(=O)(=O)N)(F)F | C18H9F6N5O3S2
